US07897619B2
To a solution of ACN (1.8 g, 43 mmol) in 90 mL of THF at −78° C. was added tert-butyllithium (25 mL, 1.7 M in heptane). After 20 minutes, methyl isoquinoline-6-carboxylate (2.0 g, 11 mmol) was added slowly in 10 mL of THF. After 1 hour, the reaction was quenched with 100 mL of aqueous NH4Cl and warmed to room temperature. The biphasic mixture was extracted twice with 100 mL of EtOAc, and the combined organic extracts were washed with 100 mL of brine and dried over MgSO4. Filtration and concentration under reduced pressure afforded 3-(isoquinolin-6-yl)-3-oxopropanenitrile (2.1 g, 100% yield crude). The product thus obtained was used in the next step without any further purification.

reactant | ACN | 43 mmol, 1.8 g | C(C)#N | C2H3N
reactant | tert-butyllithium | 1.7 M, 25 mL | C(C)(C)(C)[Li]
reactant | methyl isoquinoline-6-carboxylate | 11 mmol, 2.0 g | C1=NC=CC2=CC(=CC=C12)C(=O)OC | C11H9NO2
solvent | THF | 90 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 3-(isoquinolin-6-yl)-3-oxopropanenitrile | 2.1 g, 100% yield | C1=NC=CC2=CC(=CC=C12)C(CC#N)=O | C12H8N2O
